US07960409B2
Step 4: 7-(Bromomethyl)-4-phenylquinoline-2-carbonitrile
A solution of 7-methyl-4-phenylquinoline-2-carbonitrile (11.2 g, 41.7 mmol), N-bromo-succinimide (12.2 g, 68.6 mmol) and AIBN (2,2′-azobisisobutyronitrile) (200 mg) in carbon tetrachloride (200 mL) was heated at reflux overnight. The reaction was cooled to ambient temperature and the solid residue was filtered. The filtrate was concentrated under reduced pressure. The crude product was purified by flash column chromatography (eluting with 5% ethyl acetate in hexane) to give the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.30 (s, 1H), 8.06 (d, 1H), 7.90 (s, 1H), 7.87 (d, 1H), 7.6-7.7 (m, 5H), 4.95 (s, 2H).

reactant | 7-methyl-4-phenylquinoline-2-carbonitrile | 41.7 mmol, 11.2 g | CC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C17H12N2
reactant | N-bromo-succinimide | 68.6 mmol, 12.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 200 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 7-(Bromomethyl)-4-phenylquinoline-2-carbonitrile | BrCC1=CC=C2C(=CC(=NC2=C1)C#N)C1=CC=CC=C1 | C17H11BrN2
